US08492582B2
To a solution mixture of the obtained tert-butyl 2-(2-(benzyloxy)-4-(pyridin-2-yl)benzamido)-4-phenylbenzoate (0.13 g) in methanol (2 mL), dioxane (2 mL), and ethyl acetate (4 mL), 10% palladium-carbon (67 mg) was added, followed by stirring under a hydrogen atmosphere at room temperature for 2 hours and 30 minutes. Chloroform was added to the reaction mixture. The insoluble substance was removed by filtration, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Fuji Silysia Chemical Ltd., PSQ100B (spherical), eluent: chloroform] to obtain 0.11 g of tert-butyl 2-(2-hydroxy-4-(pyridin-2-yl)benzamido)-4-phenylbenzoate as a white solid.

reactant | tert-butyl 2-(2-(benzyloxy)-4-(pyridin-2-yl)benzamido)-4-phenylbenzoate | 0.13 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=CC(=C1)C1=NC=CC=C1 | C36H32N2O4
reactant | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 2 mL | CO | CH4O
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | palladium-carbon | 67 mg | [C].[Pd]
product | tert-butyl 2-(2-hydroxy-4-(pyridin-2-yl)benzamido)-4-phenylbenzoate | 0.11 g | OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=CC(=C1)C1=NC=CC=C1 | C29H26N2O4
